data/mechanisms/records/IMS9-EQ9.3.json
{"mechanism_id": "IMS9-EQ9.3", "species": [{"species_id": "alkene_molecular_ion_pent_2_ene", "mapped_smiles": "[CH3:1][CH2:2][CH:3][CH+:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "allyl_cation_1_methylallyl", "mapped_smiles": "[CH2:2]=[CH:3][CH+:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alkyl_radical_R_prime", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["alkene_molecular_ion_pent_2_ene"]}, {"state_id": "state_products", "species_ids": ["allyl_cation_1_methylallyl", "alkyl_radical_R_prime"]}], "steps": [{"step_id": "step_allylic_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_9_3", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_allylic_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 230, "equation": "9.3", "figure": null, "panel": "single scheme, reaction arrow labelled 'alpha'", "section": "Unsaturated aliphatic hydrocarbons (9 / Mass Spectra of Common Compound Classes)"}, "confidence": 0.9, "curator_note": "Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Arc geometry read off the native scan: the RIGHT fishhook has its tail at the odd-electron dot itself, which is printed over the C(3)-C(4) bond nearer C(4) than C(3) (the first draft said 'directly under' the superscript, which is more precise than the ink supports) and its barb pointing down onto the C(2)-C(3) bond = move 1 (odd electron of the ionized double bond into the forming pi bond); the LEFT fishhook has its tail on the R'-CH2 sigma bond and its barb landing on that same C(2)-C(3) bond (the two barbs are printed side by side between CH2 and CH) = move 2. Nothing is drawn onto the departing R'; move 3 (the second electron of the cleaved C(1)-C(2) sigma bond onto C(1)) is the implicit homolysis hook. LOCALIZATION (convention B): the page prints the alkene ion with plain single lines, R'-CH2-CH-CHR, and a single '+.' superscript over the C(3)-C(4) bond - McLafferty's shorthand for a pi bond that now holds only one electron (the same style as Equation 4.15). Read literally that formula is not valence-complete, so this record localizes the odd electron on C(3) -- a CURATOR CHOICE, since the drawn dot sits over the C(3)-C(4) bond rather than on either atom -- and the positive charge on C(4), which is where the book's own product 'CH2=CH-CHR(+)' puts it. RESONANCE (convention C): the book prints the partner canonical form '(+)CH2-CH=CHR' after a double-headed arrow; the allyl cation written here is the localized form the drawn arrows actually produce. INSTANTIATION (convention F): R' and R are generic on the page; both are taken as CH3 here, so the substrate is 2-pentene and the record is RDKit-parseable. The page prints NO m/z and NO intensity for any species, so the product ion is detected=false and its peak assignment is status='inferred' with no relative_intensity; the 55.0542 there is the curator-computed monoisotopic m/z of the instantiated C4H7+ ion, not a measured value."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 70.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c4h7_55", "species_id": "allyl_cation_1_methylallyl", "step_id": "step_allylic_alpha_cleavage", "observed_mz": 55.0542, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
